US06265411B1
A solution of 6-fluorooxindole (264 mg, 1.75 mmol), (prepared according to Synthesis 1993, 51), in THF (3 ml) was added dropwise under nitrogen to sodium hydride (42 mg, 1.75 mmol, pre-washed with hexane). After stirring the resulting mixture for 20 minutes at ambient temperature, 4-chloro-6,7-dimethoxyquinazoline (210 mg, 0.93 mmol), (prepared as described for the starting material in Example 1), was added as a solid, followed by DMF (4 ml). The reaction mixture was then heated at 85° C. for 1 hour, the solvent was removed by evaporation and the residue partitioned between ether and water. The aqueous layer was separated and neutralised with 2M hydrochloric acid and the solid was collected by filtration, washed with ether and dried under vacuum to give 6,7-dimethoxy4-(6-fluorooxindol-3-yl)quinazoline (255 mg, 81%) as a yellow solid.

reactant | 6-fluorooxindole | 1.75 mmol, 264 mg | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
reactant | sodium hydride | 1.75 mmol, 42 mg | [H-].[Na+]
reactant | 4-chloro-6,7-dimethoxyquinazoline | 0.93 mmol, 210 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 6,7-dimethoxy4-(6-fluorooxindol-3-yl)quinazoline | 255 mg, 81% | COC=1C=C2C(=NC=NC2=CC1OC)C1C(NC2=CC(=CC=C12)F)=O | C18H14FN3O3
